US05354759
A mixture of 2-amino-4,6-dimethyl-3-nitropyridine (14.91 g) and N,N-dimethylaniline (80 ml) was heated at 70° C. To the solution was added dropwise acetyl chloride at 70° C. and the mixture was stirred at 70° C. for 2.5 hours. To the reaction mixture was added ethyl acetate(500 ml). The organic layer was separated. and washed with water three times and brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was dissolved in hot isopropyl ether (200 ml), and cooled to ambient temperature. After the mixture was cooled in an ice bath for an hour, the resulting solid collected by filtration, was washed with cold isopropyl ether, purified by flash column chromatography on silica gel eluted by a mixture of ethyl acetate and n-hexane (1:9 then 2:1) to yield a brown oil and the oil was dissolved methanol(40 ml). To the solution was added saturated sodium bicarbonate (10 ml), and stirred at room temperature for 70 minutes. The mixture was diluted with ethy acetate, organic layer was separated, and the aqueous layer was extracted with ethy acetate. The combined ethyl acetate layer was washed with water, dried over magnesium sulfate, and concentated in vacuo. To the residue was added diisopropyl ether (50 ml). After cooling, the solid was collected by filtration and washed diisopropyl ether to give 2-acetylamino-4,6-dimethyl-3-nitropyridine(5.56 g) as colorless powder.

reactant | 2-amino-4,6-dimethyl-3-nitropyridine | 14.91 g | NC1=NC(=CC(=C1[N+](=O)[O-])C)C | C7H9N3O2
reactant | N,N-dimethylaniline | 80 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | ethy acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
product | 2-acetylamino-4,6-dimethyl-3-nitropyridine | 5.56 g | C(C)(=O)NC1=NC(=CC(=C1[N+](=O)[O-])C)C | C9H11N3O3
